*OA Ideal
* Connections: 
*                Non-Inverting Input
*                |   Inverting Input
*                |   |   Positive Power Supply
*                |   |   |   Negative Power Supply
*                |   |   |   |   Output
*                |   |   |   |   |
.SUBCKT OA_Ideal 1   2   3   4   5
A1 2 1 0 0 0 0 5 0 OTA G={Avol/Rout} ref={Vos} linear Cout={Cout} en={en} enk={enk} in={in} ink={ink} incm={incm} incmk={incmk} Vhigh=1e308 Vlow=-1e308 Rout={Rout}
R5 2 3 {2*Rin} noiseless
R6 1 4 {2*Rin} noiseless
R1 3 1 {2*Rin} noiseless
R2 2 4 {2*Rin} noiseless
.param Rout=.1
.param Cout={Avol/GBWP/2/pi/Rout}
.param Vos=0
*.param Avol=1Meg GBWP=10Meg
.param en=0 enk=0 in=0 ink=0 incm=0 incmk=0 Rin=1G
.ends OA_Ideal
*